US09145413B2
a. 4-Morpholin-4-ylmethyl-benzoic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide (Intermediate 18a)
HOBt (53 mg, 0.39 mmol) was added to (5-fluoro-pyridin-2-yl)-hydrazine (for reference procedure see WO 2010/022076, which is incorporated herein by reference in its entirety; 500 mg, 3.94 mmol), 4-morpholin-4-ylmethyl-benzoic acid (1.04 g, 4.72 mmol) and EDC (907 mg, 4.72 mmol) in DCM (5.0 mL) and the reaction stirred for 4 h. The reaction was partitioned between DCM (75 mL) and saturated aqueous NaHCO3 (75 mL) and the aqueous layer extracted with DCM (3×). The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated in vacuo then purified by FCC using [0.5-7.5% 2M NH3 in MeOH] in DCM to give the title compound (980 mg, 2.97 mmol, 75%). LCMS (Method 4): Rt 0.27, m/z 331 [MH+].

reactant | HOBt | 0.39 mmol, 53 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (5-fluoro-pyridin-2-yl)-hydrazine | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | 4-morpholin-4-ylmethyl-benzoic acid | 4.72 mmol, 1.04 g | N1(CCOCC1)CC1=CC=C(C(=O)O)C=C1 | C12H15NO3
reactant | EDC | 4.72 mmol, 907 mg
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 4-Morpholin-4-ylmethyl-benzoic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide | 2.97 mmol, 980 mg, 75% | FC=1C=CC(=NC1)NNC(C1=CC=C(C=C1)CN1CCOCC1)=O | C17H19FN4O2
